US07514419B2
To a mixture of bis(4-methoxy-3-iso-propylphenyl)iodonium tetrafluoroborate (4.80 g, 9.38 mmol) and copper powder (0.79 g, 12.52 mmol) in CH2Cl2 (15.0 mL) at 0° C. was added a solution of triethylamine (0.96 mL, 6.89 mmol) and 3,5-dimethyl-4-hydroxybenzaldehyde (0.94 g, 6.26 mmol) in dichloromethane (15.0 mL). The reaction mixture was stirred at room temperature for 3 d and filtered through a Celite plug. The solvent was removed under reduced pressure and the residue was purified by column chromatography on silica gel, eluting with acetone-hexanes (1:19) to afford 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzaldehyde as an oil (2.00 g, 100%): 1H NMR (300 MHz, DMSO-d6): δ 9.96 (s, 1H), 7.75 (s, 2H), 6.85 (m, 1H), 6.73 (m, 1H), 6.36 (m, 1H), 3.74 (s, 3H), 3.19 (m, 1H), 2.15 (s, 6H), 1.12 (d, J=6.0 Hz, 6H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-acetone (17:3); Rf=0.51.

reactant | bis(4-methoxy-3-iso-propylphenyl)iodonium tetrafluoroborate | 9.38 mmol, 4.80 g | F[B-](F)(F)F.COC1=C(C=C(C=C1)[I+]C1=CC(=C(C=C1)OC)C(C)C)C(C)C
reactant | triethylamine | 6.89 mmol, 0.96 mL | C(C)N(CC)CC | C6H15N
reactant | 3,5-dimethyl-4-hydroxybenzaldehyde | 6.26 mmol, 0.94 g | CC=1C=C(C=O)C=C(C1O)C | C9H10O2
solvent | CH2Cl2 | 15.0 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 15.0 mL | ClCCl | CH2Cl2
catalyst | copper | 12.52 mmol, 0.79 g | [Cu] | Cu
product | 3,5-dimethyl-4-(3′-iso-propyl-4′-methoxyphenoxy)benzaldehyde | 2.00 g, 100% | CC=1C=C(C=O)C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C | C19H22O3
